US04829067
A mixture of 2.02 g of methyl 2-hydroxy-3-(2-nitro-1-propenyl)benzoate, 4.75 g of iron powder and 40 ml of acetic acid is heated at 70° C. for 25 minutes. Toluene is added to the reaction mixture, and the mixture is filtered and washed with chloroform. The washings and the filtrate are combined and the mixture is evaporated under reduced pressure to remove solvent. 50 ml of toluene, 2.43 g of p-toluenesulfonic acid monohydrate and 1 ml of water are added to the residue. The mixture is refluxed for 50 minutes and further refluxed 20 minutes while removing water azeotropically. Ethyl acetate is added to the reaction mixture. The mixture is washed successively with water and an aqueous saturated sodium bicarbonate solution, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography to give 1.24 g of methyl 2-methylbenzofuran-7-carboxylate as colorless oil.

reactant | methyl 2-hydroxy-3-(2-nitro-1-propenyl)benzoate | 2.02 g | OC1=C(C(=O)OC)C=CC=C1C=C(C)[N+](=O)[O-] | C11H11NO5
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 4.75 g | [Fe] | Fe
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 2-methylbenzofuran-7-carboxylate | 1.24 g | CC=1OC2=C(C1)C=CC=C2C(=O)OC | C11H10O3
